US04416884
2.0 g of 8-(1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid was added to 20 ml of water having dissolved therein 2.0 g of potassium carbonate and the mixture was stirred at room temperature for 30 minutes. After dissolving insoluble materials completely with the addition of 3 ml of 1 N aqueous sodium hydroxide solution, 10 ml of methanol having dissolved therein 0.9 g of benzyl chloride was added dropwise to the mixture while ice-cooling. After completion of the addition, the resulitng mixture was heat-refluxed for 3 hours to form a uniform solution. The solution obtained was treated with activated carbon while hot and rendered neutral with a 10% aqueous hydrochloric acid to precipitate crystals, which were separated by filtration and washed with water. Recrystallization of the crystals thus treated from dimethylformamide gave 0.25 g of 8-(4-benzyl-1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]-quinolizine-2-carboxylic acid having a melting point of 274° to 278° C.

reactant | 8-(1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 2.0 g | N1(CCNCC1)C1=CC=C2C(C(=CN3CCCC1=C23)C(=O)O)=O | C17H19N3O3
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1 N, 3 ml | [OH-].[Na+]
reactant | benzyl chloride | 0.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 8-(4-benzyl-1-piperazinyl)-6,7-dihydro-1-oxo-1H,5H-benzo[ij]-quinolizine-2-carboxylic acid | 0.25 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C2C(C(=CN3CCCC1=C23)C(=O)O)=O | C24H25N3O3
